US08871797B2
NCS (0.05 g, 0.37 mmol, 1.1 eq.) dissolved in DMF (2/3 mL) was added drop wise to a stirred solution of 5-(2-methoxy-5-nitro-phenyl)-1-methyl-3-trifluoromethyl-1H-pyrazole, see Example 1.99 (0.1 g, 0.33 mmol) in DMF (1 1/3 mL) at 0° C. The reaction mixture was stirred 0° C. and TLC indicated no product. An additional equivalent of NCS was added and the reaction mixture was stirred at 80° C. overnight which resulted in completion of the reaction. The DMF was removed under vacuum and the crude mixture was diluted with EtOAc (50 mL) and washed with brine (3×10 mL). The EtOAc phase was dried over anhydrous MgSO4, filtered and evaporated to give the partially purified product 4-chloro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-3-trifluoromethyl-1H-pyrazole (0.13 g) as a light yellow solid: LCMS m/z (%)=336 (M+H35Cl, 100), 382 (M+H37Cl, 33). 1H NMR (400 MHz, CDCl3) δ: 8.37 (dd, J=8.0, 4.0 Hz, 1H), 8.16 (d, J=4.0 Hz, 1H), 7.09 (d, J=8.0 Hz, 1H), 3.92 (s, 3H), 3.69 (s, 3H).

reactant | NCS | 0.37 mmol, 0.05 g, 1.1 eq. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | 5-(2-methoxy-5-nitro-phenyl)-1-methyl-3-trifluoromethyl-1H-pyrazole | COC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC(=NN1C)C(F)(F)F | C12H10F3N3O3
solvent | DMF | 2/3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1/3 mL | CN(C)C=O | C3H7NO
product | 4-chloro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-3-trifluoromethyl-1H-pyrazole | 0.13 g | ClC=1C(=NN(C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C)C(F)(F)F | C12H9ClF3N3O3
